US07208493B2
6,7-bis(3,4-dihydroxyphenyl)-pteridine-2,4-diamine
105.0 mg (0.253 mmol) of 6,7-bis(3,4-dihydroxyphenyl)-pteridine-2,4-diamine dihydrochloride salt was dissolved in 3 mL of water and 42.53 mg of solid NaHCO3 was added to this solution. The reaction mixture was stirred for 30 min. A slurry of yellow precipitate was formed, it was centrifuged down and solvent was decanted. The dark-yellow residue was dissolved in 3 mL of MeOH and added dropwise to 40 mL of diethyl ether. The formed yellow precipitate was collected, washed with ether and dried in vacuo to give 92.5 mg (96.5% yield) of the product as a yellow, fluffy powder. 97% purity by LC/MS (230 DAD). Mass-spec [M+H+]=379.3. 1H NMR (MeOH-d4) 6.68–6.73 (2H, dd), 6.79–6.81 (1H, dd), 6.84–6.86 (1H, dd), 6.93 (1H, d), 7.03 (1H, d).

reactant | 6,7-bis(3,4-dihydroxyphenyl)-pteridine-2,4-diamine dihydrochloride salt | 0.253 mmol, 105.0 mg | Cl.Cl.OC=1C=C(C=CC1O)C=1N=C2C(=NC(=NC2=NC1C1=CC(=C(C=C1)O)O)N)N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 3 mL | O | H2O
product | 6,7-bis(3,4-dihydroxyphenyl)-pteridine-2,4-diamine | 92.5 mg, 96.5% yield | OC=1C=C(C=CC1O)C=1N=C2C(=NC(=NC2=NC1C1=CC(=C(C=C1)O)O)N)N | C18H14N6O4
